US06204293B1
(S)-Cyclohexylmethyloxirane
To a solution of (S)-3-cyclohexyl-1,2-propanediol in CH2Cl2 was added triethylamine (6.6 mL), 2,4,6-triisopropylbenzenesulfonyl chloride (11.5 g), and DMAP (0.386 g). After 14 h, the reaction was diluted with ether, chilled to 0° C., filtered through celite and concentrated. The residue was dissolved in ethanol (100 mL), and 1M NaOH was added (32 mL). After 30 min, the reaction was carefully concentrated, diluted with water (100 mL) and extracted into ether (3×50 mL). The organic extracts were washed with brine (20 mL), dried (MgSO4), filtered and concentrated to give a colorless aromatic oil which was purified first by passage through a plug of silica gel eluting with 5%EtOAc/hexane, then by bulb-to-bulb distillation under reduced pressure to give a colorless aromatic oil (3.3 g, 75%). 1H NMR (300 MHz, CDCl3) δ0.90-1.09 (m, 2H), 1.10-1.85 (m, 11H), 2.43 (dd, J=5.1, 2.7 Hz, 1H), 2.75 (dd, J=5.1, 4.5 Hz, 1H), 2.94 (m, 1H).

reactant | (S)-3-cyclohexyl-1,2-propanediol | C1(CCCCC1)C[C@@H](CO)O | C9H18O2
reactant | triethylamine | 6.6 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-triisopropylbenzenesulfonyl chloride | 11.5 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)Cl | C15H23ClO2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.386 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ether | CCOCC | C4H10O
product | (S)-Cyclohexylmethyloxirane | 3.3 g, 75% | C1(CCCCC1)C[C@@H]1OC1 | C9H16O
